US05852017
1-Cyclohexyl-6-trifluoromethyl-7-(2-methoxycarbonyl-1-pyrrolyl)-2,3(1H,4H)-quinoxalinedione
In place of 2,5-dimethoxytetrahydrofuran, 1.2 g (6.1 mmol) of 2-methoxycarbonyl-2,5-dimethoxytetrahydrofuran were dissolved with 2 g (6.1 mmol) of 1-cyclohexyl-6-trifluoromethyl-7-amino-2,3(1H,4H)-quinoxalinedione in 100 ml of acetic acid and refluxed for 30 minutes. The mixture was then worked up as in Example 3f.

reactant | 2-methoxycarbonyl-2,5-dimethoxytetrahydrofuran | 6.1 mmol, 1.2 g | COC(=O)C1(OC(CC1)OC)OC | C8H14O5
reactant | 1-cyclohexyl-6-trifluoromethyl-7-amino-2,3(1H,4H)-quinoxalinedione | 6.1 mmol, 2 g | C1(CCCCC1)N1C(C(NC2=CC(=C(C=C12)N)C(F)(F)F)=O)=O | C15H16F3N3O2
solvent | 2,5-dimethoxytetrahydrofuran | COC1OC(CC1)OC | C6H12O3
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | 1-Cyclohexyl-6-trifluoromethyl-7-(2-methoxycarbonyl-1-pyrrolyl)-2,3(1H,4H)-quinoxalinedione | C1(CCCCC1)N1C(C(NC2=CC(=C(C=C12)N1C(=CC=C1)C(=O)OC)C(F)(F)F)=O)=O | C21H20F3N3O4
